US06177459B1
At −40° C., 6.9 g (0.0405 mol) of N-diethoxymethylimidazole (J. Org. Chem. Vol. 45, No. 20, 1980, page 4040) in 40 ml of tetrahydrofuran are mixed with 11.3 g (0.0405 mol) of 23% pure n-butyllithium, and the mixture is stirred at −60° C. for one hour. At −40° C., 6 g (0.0203 mol) of N-[2-(2-methylphenoxymethyl)-benzoyl]-pyrrolidine are added, and the mixture is stirred for 30 minutes without any further cooling, on which the reaction mixture warms to 20° C. 5 g of ammonium chloride and 50 ml of methanol are added, and the mixture is heated at reflux for 15 minutes. The volatile components are distilled off under reduced pressure and the residue is admixed with water and extracted with ethyl acetate. The organic phase is dried and concentrated under reduced pressure. The residue is recrystallized from ethyl acetate. 3.79 g (63.8% of theory) of 2[2-(2-methylphenoxymethyl)-benzoyl]-imidazole are obtained.

reactant | N-diethoxymethylimidazole | 0.0405 mol, 6.9 g | C(C)OC(N1C=NC=C1)OCC | C8H14N2O2
reactant | n-butyllithium | 0.0405 mol, 11.3 g | C(CCC)[Li]
reactant | N-[2-(2-methylphenoxymethyl)-benzoyl]-pyrrolidine | 0.0203 mol, 6 g | CC1=C(OCC2=C(C(=O)N3CCCC3)C=CC=C2)C=CC=C1 | C19H21NO2
reactant | ammonium chloride | 5 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
product | 2[2-(2-methylphenoxymethyl)-benzoyl]-imidazole | 3.79 g, 63.8% | CC1=C(OCC2=C(C(=O)C=3NC=CN3)C=CC=C2)C=CC=C1 | C18H16N2O2
